US08022205B2
4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [2-methyl-4-(4-methyl-piperazin-1-yl)-phenyl]-amide (D-241)
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (150 mg), and 2-methyl-4-(4-methyl-piperazin-1-yl)-phenylamine (63 mg) obtained using 1-methyl-piperazine instead of morpholine in the same manner as Step A and Step B in Example 1-D-240, instead of 2-methyl-5-morpholin-4-yl-phenylamine, in the same manner as Step C in Example 1-D-237, 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [2-methyl-4-(4-methyl-piperazin-1-yl)-phenyl]-amide was obtained as a crude product. The PMB groups were removed according to Deprotection method 2, to obtain the desired compound (D-241) (110 mg, 75%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 150 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 2-methyl-4-(4-methyl-piperazin-1-yl)-phenylamine | 63 mg | CC1=C(C=CC(=C1)N1CCN(CC1)C)N | C12H19N3
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | 2-methyl-5-morpholin-4-yl-phenylamine | CC1=C(C=C(C=C1)N1CCOCC1)N | C11H16N2O
reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [2-methyl-4-(4-methyl-piperazin-1-yl)-phenyl]-amide | CC1=C(C=CC(=C1)N1CCN(CC1)C)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2 | C43H50N10O4
product | 4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [2-methyl-4-(4-methyl-piperazin-1-yl)-phenyl]-amide | 110 mg, 75% | CC1=C(C=CC(=C1)N1CCN(CC1)C)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2 | C27H34N10O2
